### PR TITLE
feat: soundness and completeness of linear logic phase semantics

### PR DESCRIPTION
**Pull request by tannerduve**
This PR proves that the sequent calculus for full classical linear logic (CLL) is sound with respect to phase semantics, and proves completeness for MALL, the multiplicative-additive fragment of classical linear logic. Specifically it shows that every provable sequent is valid in every phase space, and constructs a syntactic phase model to prove that semantic validity implies provability for MALL.

Note on AI usage: [Aleph prover](https://logicalintelligence.com/aleph-coding-ai/) proved several lemmas used in proving completeness, and these proofs were heavily iterated on and golfed by me, ensuring they meet style standards. 

A couple of proofs could possibly be further golfed, open to receiving help with this

### CODE REVIEW

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 1]
```diff
@@ -454,8 +450,14 @@ lemma par_le_par {G H K L : Fact P} (hGK : G ≤ K) (hHL : H ≤ L) : (G ⅋ H)
 
 @[simp] lemma par_assoc {G H K : Fact P} : ((G ⅋ H) ⅋ K) = (G ⅋ H ⅋ K) := by simp [par_of_tensor]
 
+instance parAssociative {M : Type*} [PhaseSpace M] :
+    Std.Associative (α := Fact M) (· ⅋ ·) := ⟨fun _ _ _ => par_assoc⟩
+
 lemma par_comm (G H : Fact P) : (G ⅋ H) = (H ⅋ G) := by simp [par_of_tensor, tensor_comm]
 
+instance parCommutative {M : Type*} [PhaseSpace M] :
+    Std.Commutative (α := Fact M) (· ⅋ ·) := ⟨par_comm⟩
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: Same here

```suggestion
instance parCommutative {M : Type*} [PhaseSpace M] : Std.Commutative (α := Fact M) (· ⅋ ·) :=
  ⟨par_comm⟩
```

**Comment by chenson2018** [comment]
Could you please do a pass fixing indentation issues? I started to mark them all individually but I think it is just easier to point out that this in general doesn't adhere to indentation at four spaces for theorem statements using multiple lines.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 2]
```diff
@@ -330,7 +326,7 @@ instance : Min (Fact P) where
 def idempotentsIn [Monoid M] (X : Set M) : Set M := {m | IsIdempotentElem m ∧ m ∈ X}
 
 /-- The set I of idempotents that "belong to 1" in the phase semantics. -/
-def I : Set P := idempotentsIn (1 : Set P)
+def I : Set P := idempotentsIn (↑(1 : Fact P))
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: This can just be

```suggestion
def I : Set P := idempotentsIn (1 : Fact P)
```
right?

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 3]
```diff
@@ -0,0 +1,219 @@
+/-
+Copyright (c) 2026 Tanner Duve. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tanner Duve, Bhavik Mehta, Aleph Prover
+-/
+
+module
+
+public import Cslib.Logics.LinearLogic.CLL.PhaseSemantics.Soundness
+
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]:
```suggestion
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+/-- The bottom set of the canonical phase space: provable sequents. -/
+def canonBot (Atom : Type u) : Set (CanonM Atom) :=
+  {m | Derivable m.toAdd}
+
+theorem PrSet_bot {Atom : Type u} : PrSet Atom ⊥ = canonBot Atom := by
+  ext m; exact ⟨fun ⟨p⟩ => ⟨p.bot_inversion⟩, fun ⟨p⟩ => ⟨p.bot⟩⟩
+
+instance canonPhaseSpace (Atom : Type u) : PhaseSpace (CanonM Atom) := by
+  exact { bot := canonBot Atom, toCommMonoid := inferInstance }
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]:
```suggestion
instance canonPhaseSpace (Atom : Type u) : PhaseSpace (CanonM Atom) where
  bot := canonBot Atom
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+theorem PrSet_eq_orth {Atom : Type u} (A : Proposition Atom) :
+PrSet Atom A = orthogonal (PrSet Atom (Proposition.dual A)) := by
+  ext m; constructor
+  · intro hm n hn
+    change (m * n) ∈ canonBot Atom
+    exact ⟨(toAdd_mul m n).symm ▸ hm.toDerivation.cut hn.toDerivation⟩
+  · intro hm
+    let n : CanonM Atom := Multiplicative.ofAdd {A}
+    have hn : n ∈ PrSet Atom A⫠ := by
+      simp only [PrSet, Set.mem_setOf_eq, n]; exact ⟨@Proof.ax' _ A⟩
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: You can just write
```suggestion
    have hn : n ∈ PrSet Atom A⫠ := ⟨@Proof.ax' Atom A⟩
```
or maybe some API around this?

**Comment by tannerduve** [comment]
> Could you please do a pass fixing indentation issues? I started to mark them all individually but I think it is just easier to point out that this in general doesn't adhere to indentation at four spaces for theorem statements using multiple lines.

definitely. I was unaware of this convention for some reason.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 6]
```diff
@@ -0,0 +1,219 @@
...
+    have hbot := hm n hn
+    have hprov : Derivable (m.toAdd + {A}) := by aesop
+    have hprov' : Derivable ({A} + m.toAdd) := by grind
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: It seems a bit undesirable to use `aesop` in one direction and `grind` in the other. Maybe track down the missing annotations so we can have fewer overall calls to proof automation? I'm not sure exactly how much this helps performance, but for instance I've been told `grind` has a "startup cost" worth considering.

**Comment by tannerduve** [comment]
just fixed, lmk if there are other issues wrt indentation or style conventions I've missed

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 7]
```diff
@@ -0,0 +1,219 @@
...
+      (Proof.cut hB (ht : Derivable _).toDerivation)⟩
+  · intro hm
+    let s : CanonM Atom := Multiplicative.ofAdd {A}
+    let t : CanonM Atom := Multiplicative.ofAdd {B}
+    have hs : s ∈ PrSet Atom A⫠ := by
+      simp only [PrSet, Set.mem_setOf_eq, s]; exact ⟨@Proof.ax' _ A⟩
+    have ht : t ∈ PrSet Atom B⫠ := by
+      simp only [PrSet, Set.mem_setOf_eq, t]; exact ⟨@Proof.ax' _ B⟩
+    have hprov : Derivable ((m * (s * t)).toAdd) := by
+      have h := hm (s * t) (Set.mul_mem_mul hs ht); simp only at h; exact h
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: Another unnecessary `simp`
```suggestion
    have hprov : Derivable ((m * (s * t)).toAdd) := hm (s * t) (Set.mul_mem_mul hs ht)
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 8]
```diff
@@ -0,0 +1,219 @@
...
+
+theorem interpProp_canon_carrier {Atom : Type u} (A : Proposition Atom)
+    (hA : Proposition.IsMALL A) :
+    ((@interpProp (CanonM Atom) Atom _ canonVal A) :
+        Set (CanonM Atom)) =
+      PrSet Atom A := by
+  induction A with
+  | atom a =>
+    simp only [interpProp, canonVal, dualFact, mk_dual_coe]
+    rw [PrSet_eq_orth (.atom a)]; simp [Proposition.dual, -orthogonal_def]
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: It seems this can be minimized to

```suggestion
    simp [interpProp, canonVal, PrSet_eq_orth (.atom a), Proposition.dual]
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean [hunk 9]
```diff
@@ -0,0 +1,306 @@
...
+    interpProp v (Proposition.atomDual a) = (v a)ᗮ := rfl
+
+theorem dualFact_coe (M : Type*) [PhaseSpace M] (S : Set M) :
+    (dualFact S) = S⫠ := by
+  simp [dualFact]
+
+@[simp] theorem interpProp_bang {M : Type*} [PhaseSpace M]
+    (v : Atom → Fact M) (A : Proposition Atom) :
+    interpProp v (!A) = (!(interpProp v A)) := rfl
+@[simp] theorem interpProp_bot {M : Type*} [PhaseSpace M] (v : Atom → Fact M) :
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean]: We generally have a line break between declarations.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
This isn't comprehensive, but a few style things I noticed. The formatting in general is a bit rough at the moment, I assume because of the AI usage.

I'd prefer to have @fmontesi review the actual content.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 10]
```diff
@@ -0,0 +1,214 @@
...
+open scoped Pointwise
+open PhaseSpace Logic InferenceSystem
+open Fact Sequent
+
+universe u
+
+variable {Atom : Type u}
+
+/-- The canonical monoid for the completeness construction: sequents under multiset addition. -/
+@[reducible] def CanonM (Atom : Type u) : Type u := Multiplicative (Sequent Atom)
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean:53]: Is this different from `Sequent.Context`? If not, does it give any advantage to define it like this? (Perhaps it's how Sequent.Context should be defined.)

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 11]
```diff
@@ -0,0 +1,214 @@
...
+
+/-- The truth set of a proposition: sequent contexts that make `A` provable. -/
+def PrSet (Atom : Type u) (A : Proposition Atom) : Set (CanonM Atom) :=
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: We typically write lowercase `a` for propositions.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean (hunk 10 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean:53]: (PS: this is mostly for my own curiosity for now, not fundamental for this PR.)

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 12]
```diff
@@ -695,6 +697,29 @@ def interpProp [PhaseSpace M] (v : Atom → Fact M) : Proposition Atom → Fact
 
 @[inherit_doc] scoped notation:max "⟦" P "⟧" v:90 => interpProp v P
 
+/-- Semantic interpretation of a sequent as the par-fold of its members. -/
+def interpSequent (M : Type*) [PhaseSpace M]
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: Would it make sense to put it under `Sequent`, e.g., `Sequent.interpretation` or `Sequent.toFact`?

File: Cslib/Logics/LinearLogic/CLL/Basic.lean [hunk 13]
```diff
@@ -720,6 +735,37 @@ end Proposition
...
+
+theorem foldPar_isMALL {Atom : Type u} (Γ : Sequent Atom)
+    (h : Sequent.IsMALL Γ) :
+    Proposition.IsMALL (foldPar Γ) := by
+  suffices ∀ l : List (Proposition Atom), (∀ A ∈ l, A.IsMALL) →
+      (List.foldr (· ⅋ ·) ⊥ l).IsMALL by
+    exact this _ (fun A hA => h A (by aesop))
+  intro l hl; induction l <;> simp [Proposition.IsMALL]; grind [Proposition.IsMALL]
+
+theorem provable_of_list_foldr_parr {Atom : Type u}
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/Basic.lean]: `derivable` is probably better than `provable` to follow Mathlib's conventions.

File: Cslib/Logics/LinearLogic/CLL/Basic.lean [hunk 14]
```diff
@@ -720,6 +735,37 @@ end Proposition
...
+  | cons a l ih =>
+    intro ⟨p⟩
+    have p' := Proof.rwConclusion (Multiset.cons_swap ..) (Proof.parr_inversion p)
+    rcases ih (Δ := a ::ₘ Δ) ⟨p'⟩ with ⟨q⟩
+    have hEq : (↑l + (a ::ₘ Δ)) = (↑(a :: l) + Δ) := by
+      have : a ::ₘ (↑l + Δ) = (a ::ₘ ↑l) + Δ := (Multiset.cons_add a ↑l Δ).symm
+      simp_all
+    exact ⟨q.rwConclusion hEq⟩
+
+theorem provable_of_foldPar {Atom : Type u} (Γ : Sequent Atom) :
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/Basic.lean]: Idem, `derivable` instead of `provable`.

File: Cslib/Logics/LinearLogic/CLL/Basic.lean [hunk 15]
```diff
@@ -720,6 +735,37 @@ end Proposition
 
 end LogicalEquiv
 
+/-- Folds a sequent into a single formula by taking the par of all its members. -/
+noncomputable def foldPar {Atom : Type u} (Γ : Sequent Atom) : Proposition Atom :=
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/Basic.lean]: `foldParr` (missing r).

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean [hunk 16]
```diff
@@ -0,0 +1,316 @@
...
+namespace CLL
+
+open scoped Pointwise
+open PhaseSpace PhaseSpace.Fact Logic InferenceSystem
+
+universe u
+
+variable {Atom : Type u}
+
+theorem IsValid_monotone {M : Type*} [PhaseSpace M]
```
Comment (fmontesi) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean]: I think Mathlib's conventions demand `isValid_monotone` here.

Also, maybe we should namespace this under `Fact`.

**Review by fmontesi — CHANGES_REQUESTED** [review]
This looks pretty good to me, thanks!!

I've left a few comments where I had doubts.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean (hunk 10 above)
Comment (tannerduve) [reply Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean:53]: The reason for this def is that the regular `Monoid` class is multiplicative, and multisets are additive. The three options would be
1. the way I've done here
2. removing `CanonM` and changing `Sequent.Context` to be `Multiplicative (Sequent Atom)`
3. removing `CanonM` and making PhaseSpace an `AddMonoid`

1 and 2 seem most sensible but it's unclear to me which is better.

**Comment by tannerduve** [comment]
addressed these, thanks! @fmontesi

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean (hunk 10 above)
Comment (fmontesi) [reply Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean:53]: Ah, I see, thanks. Let's go with (1) for now.

**Review by fmontesi — APPROVED** [review]

**Comment by fmontesi** [comment]
@chenson2018 can you accept?

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 17]
```diff
@@ -703,6 +705,29 @@ def interpProp [PhaseSpace M] (v : Atom → Fact M) : Proposition Atom → Fact
 
 @[inherit_doc] scoped notation:max "⟦" P "⟧" v:90 => interpProp v P
 
+/-- Semantic interpretation of a sequent as the par-fold of its members. -/
+def Sequent.toFact (M : Type*) [PhaseSpace M]
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean:708]: Throughout this file the new theorems you add all have a new `[PhaseSpace M]`, but you already have a section variable at the beginning of this file. Any reason not to use it? (And here specifically it seems this doesn't match other theorems in making the `Type` explicit)

**Comment by chenson2018** [comment]
> @chenson2018 can you accept?

I'd like to do a more complete review of style here first, working on it now.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 18]
```diff
@@ -0,0 +1,214 @@
...
+  grind [Proposition.dual_involution, PrSet_eq_orth]
+
+theorem PrSet_oplus {Atom : Type u} (a b : Proposition Atom) :
+    PrSet Atom (a ⊕ b) = orthogonal (orthogonal (PrSet Atom a ∪ PrSet Atom b)) := by
+  rw [PrSet_eq_orth (a := a ⊕ b)]; congr 1
+  simp only [Proposition.dual]
+  rw [PrSet_with a⫠ b⫠, PrSet_dual_eq_orth a, PrSet_dual_eq_orth b]
+  ext m; simp only [orthogonal, imp, Multiplicative.forall, Set.mem_inter_iff, Set.mem_setOf_eq]
+  exact ⟨fun ⟨hma, hmb⟩ _ ha => ha.elim (hma _) (hmb _),
+    fun hm => ⟨fun x hx => hm x (.inl hx), fun x hx => hm x (.inr hx)⟩⟩
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: I think this is a pretty good example of the style issues I have here that I suspect are a holdover from the AI usage:
- overuse `;` that hurts readability
- golfing of a multiline `exact` that is hard to read
- a squeezed `simp` that could be otherwise avoided
I'd have written:

```suggestion
  rw [PrSet_eq_orth]
  congr 1
  simp_rw [Proposition.dual, PrSet_with a⫠ b⫠, PrSet_dual_eq_orth a, PrSet_dual_eq_orth b]
  grind
```
(there's a question of exactly how much the proof automation should see that we're working with sets, but I don't think this is too egregious?)

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean [hunk 19]
```diff
@@ -0,0 +1,214 @@
...
+  | atomDual a =>
+    simp only [interpProp, canonVal, dualFact, coe_neg, mk_dual_coe]
+    conv_rhs => rw [PrSet_eq_orth (.atomDual a)]
+    simp only [Proposition.dual]; rw [PrSet_eq_orth (.atom a)]
+    simp [Proposition.dual, -orthogonal_def]
+  | one =>
+    simp only [interpProp, coe_one]; rw [PrSet_eq_orth (.one)]
+    simp only [Proposition.dual]
+    have hb : PrSet _ .bot = canonBot Atom := PrSet_bot
+    aesop
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Completeness.lean]: With the general trend away from `aesop` upstream, I prefer writing writing explicit `simp_all`. This amounts to
```suggestion
    have : PrSet _ .bot = canonBot Atom := PrSet_bot
    rw [PrSet_eq_orth .one]
    simp_all [Proposition.dual]
    rfl
```
It feels like there's a lot of unfolding and I'm not fond of the `have` working around notation. Can we make this generally better?

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean [hunk 20]
```diff
@@ -0,0 +1,318 @@
...
+
+namespace Cslib
+namespace CLL
+
+open scoped Pointwise
+open PhaseSpace PhaseSpace.Fact Logic InferenceSystem
+
+universe u
+
+variable {Atom : Type u}
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Soundness.lean]: It seems like `{M : Type*} [PhaseSpace M]` belongs here as in other modules. Maybe even `(v : Atom → Fact M) (A B : Proposition Atom)` as well.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I've left just a few additional comments below, but I feel like in general there's a lot of remaining AI footprint that does not feel appropriate to merge. It seems like there's a lot of `change` and unfolding that should be extracted as lemmas.

**Comment by tannerduve** [comment]
@chenson2018 did one more style pass, let me know if any issues remain

**Comment by tannerduve** [comment]
@kim-em you can ignore review request, accidentally pulled in some unrelated changes and GitHub automatically requested you
